US03983241
2-amino-1-ethoxycarbonyl-4,5-dicyanoimidazole
1.33 G OF 2-AMINO-4,5-DICYANOIMIDAZOLE WAS DISSOLVED IN 10 ML OF SUSPENSION OF ACETON CONTAINING 0.7 G OF ANHYDROUS POTASSIUM CARBONATE AND THEN 1.1 G OF ETHYL CHLOROFORMATE WAS ADDED DROPWISE TO THE SOLUTION AT A ROOM TEMPERATURE.

reactant | 2-AMINO-4,5-DICYANOIMIDAZOLE | NC=1NC(=C(N1)C#N)C#N | C5H3N5
reactant | ETHYL CHLOROFORMATE | ClC(=O)OCC | C3H5ClO2
solvent | ACETON | CC(=O)C | C3H6O
solvent | POTASSIUM CARBONATE | C([O-])([O-])=O.[K+].[K+]
product | 2-amino-1-ethoxycarbonyl-4,5-dicyanoimidazole | NC=1N(C(=C(N1)C#N)C#N)C(=O)OCC | C8H7N5O2
